US05006570
Step IX - Preparation of 5-Amino-6-ethylsulphonylchroman-8-carboxylic acid-Intermediate (U)
118 g of 5-bromo-6-ethylsulphonylchroman-8-carboxylic acid, 460 ml of 34% ammonia, 5 g of powdered copper and 4 g of cuprous chloride were introduced into a 1-liter autoclave and the contents were then heated between 115° and 120° C., for 10 to 12 hours, with stirring.

reactant | 5-bromo-6-ethylsulphonylchroman-8-carboxylic acid | 118 g | BrC1=C2CCCOC2=C(C=C1S(=O)(=O)CC)C(=O)O | C12H13BrO5S
reactant | ammonia | 460 ml | N | H3N
catalyst | copper | 5 g | [Cu] | Cu
product | 5-Amino-6-ethylsulphonylchroman-8-carboxylic acid | NC1=C2CCCOC2=C(C=C1S(=O)(=O)CC)C(=O)O | C12H15NO5S
